* Ideal two winding transformer model

.SUBCKT id_transformer2w prm_1 prm_2 sec_1 sec_2
+PARAMS: N1=1 N2=1 TS={GLOBAL_TS*1e-3}

B_prim prm_1 prm_2 I={I(Vaux)*N2/N1}

B_sec midnode sec_2 V={V(prm_1,prm_2)*N2/N1} smoothbsrc=1
+ rcconst = {TS}

Vaux midnode sec_1 0

*Rp prm_2 prm_1 1e2
*Rs sec_2 sec_1 1e2

Rprim prm_2 0 1e6
Rsec sec_2 0 1e6

.ENDS id_transformer2w

.SUBCKT id_transformer2w_ac prm_1 prm_2 sec_1 sec_2
+PARAMS: N1=1 N2=1

B_prim prm_1 prm_2 I={I(Vaux)*N2/N1}

B_sec midnode sec_2 V={V(prm_1,prm_2)*N2/N1}

Vaux midnode sec_1 0

*Rp prm_2 prm_1 1e2
*Rs sec_2 sec_1 1e2

Rprim prm_2 0 1e6
Rsec sec_2 0 1e6

.ENDS id_transformer2w_ac